US08623889B2
N-(7-(3-(hydroxymethyl)phenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
The title compound was prepared following a procedure similar to example 162 using N-(7-chloro-2,6-naphthyridin-3-yl)cyclopropanecarboxamide and (3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol.

reactant | N-(7-chloro-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | ClC1=NC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C12H10ClN3O
reactant | (3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanol | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CO)C | C13H19BO3
product | N-(7-(3-(hydroxymethyl)phenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | OCC=1C=C(C=CC1)C1=NC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C19H17N3O2
